US06867205B2
2-(4-Amino-3-methoxy-phenyl)-5-aminomethyl-6-(2,4-dichloro-phenyl)-pyrimidin-4-ylamine
The title compound, MS: m/e=389.9 (M+H+), was prepared from 4-amino-3-methoxy-benzamidine and 2-(2,4-dichloro-benzylidene)-malononitrile in analogy to the process described in Example 11 as a solid.

reactant | 4-amino-3-methoxy-benzamidine | NC1=C(C=C(C(=N)N)C=C1)OC | C8H11N3O
reactant | 2-(2,4-dichloro-benzylidene)-malononitrile | ClC1=C(C=C(C#N)C#N)C=CC(=C1)Cl | C10H4Cl2N2
product | 2-(4-Amino-3-methoxy-phenyl)-5-aminomethyl-6-(2,4-dichloro-phenyl)-pyrimidin-4-ylamine | NC1=C(C=C(C=C1)C1=NC(=C(C(=N1)N)CN)C1=C(C=C(C=C1)Cl)Cl)OC | C18H17Cl2N5O
